US04512924
24.97 g of tert.butyl 1-benzyloxycarbonyl-2-(5-benzyloxycarbonyl-2-phthalimidobutyryl)-3-pyrazolidinecarboxylate were dissolved in 250 ml of methanol and hydrogenated over 2 g of 10% palladium-on-carbon. The catalyst was removed by filtration and the filtrate was evaporated to give 16 g (98%) of tert.butyl 2-(5-carboxy-2-phthalimidobutyryl)-3-pyrazolidinecarboxylate (2 diastereomers) in the form of a gum.

reactant | tert.butyl 1-benzyloxycarbonyl-2-(5-benzyloxycarbonyl-2-phthalimidobutyryl)-3-pyrazolidinecarboxylate | 24.97 g | C(C1=CC=CC=C1)OC(=O)N1N(C(CC1)C(=O)OC(C)(C)C)C(C(CC)N1C(C=2C(C1=O)=CC=C(C2)C(=O)OCC2=CC=CC=C2)=O)=O | C36H37N3O9
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
product | tert.butyl 2-(5-carboxy-2-phthalimidobutyryl)-3-pyrazolidinecarboxylate | 16 g, 98% | C(=O)(O)C1=CC=C2C(C(=O)N(C2=O)C(C(=O)N2NCCC2C(=O)OC(C)(C)C)CC)=C1 | C21H25N3O7
